US09359375B2
A solution of 2-bromo-4-fluorobenzonitrile (160 mg, 0.800 mmol), (R)-2-amino-3-(1H-indol-3-yl)propanamide (164 mg, 0.807 mmol) and DIEA (0.300 mL, 1.72 mmol) in DMSO (3 mL) was stirred at 120 C for 18 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was purified by a silica gel column, which was eluted with 0-80% EtOAc in hexane to give (R)-2-(3-bromo-4-cyanophenylamino)-3-(1H-indol-3-yl)propanamide (96 mg)

reactant | 2-bromo-4-fluorobenzonitrile | 0.800 mmol, 160 mg | BrC1=C(C#N)C=CC(=C1)F | C7H3BrFN
reactant | (R)-2-amino-3-(1H-indol-3-yl)propanamide | 0.807 mmol, 164 mg | N[C@@H](C(=O)N)CC1=CNC2=CC=CC=C12 | C11H13N3O
reactant | DIEA | 1.72 mmol, 0.300 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-(3-bromo-4-cyanophenylamino)-3-(1H-indol-3-yl)propanamide | 96 mg | BrC=1C=C(C=CC1C#N)N[C@@H](C(=O)N)CC1=CNC2=CC=CC=C12 | C18H15BrN4O
